US07067517B2
1-Oxo-1λ4-thiomorpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and thiomorpholine 1-oxide and purified by flash chromatography (ethyl acetate), yield 37%. White crystals, m.p. 156–157° C.; 1H NMR (CDCl3) δ 8.47–8.40 (s-like, 1H), 7.94–7.87 (dd-like, 1H), 7.24–7.13 (m, 4H), 7.06–6.99 (d-like), 4.31–3.91 (m, 4H), 2.97–2.87–2.75 (m, 2H+2H); IR (KBr): ν 1710 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | thiomorpholine 1-oxide | N1CCS(CC1)=O | C4H9NOS
product | 1-Oxo-1λ4-thiomorpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | yield 37% | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCS(CC1)=O)(F)F | C17H15F3N2O4S
